US06838463B2
In 2 ml of N,N-dimethylformamide were dissolved 73 mg of 4-(2-butynyloxy)-6-(2,2,3,3,3-pentafluoropropylamino)pyrimidine and 47 mg of ethyl iodide, to which 12 mg of sodium hydride (60% in oil) was added, followed by stirring at room temperature for 3.5 hours. Then, ice water was added to the reaction mixture, which was extracted with ethyl acetate. The organic layer was washed twice with an aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then concentrated. The residue was subjected to preparative silica gel thin layer chromatography to give 43 mg of 4-(2-butynyloxy)-6-(N-ethyl-N-(2,2,3,3,3-pentafluoropropyl)amino)pyrimidine (the present compound (112)).

reactant | 4-(2-butynyloxy)-6-(2,2,3,3,3-pentafluoropropylamino)pyrimidine | 73 mg | C(C#CC)OC1=NC=NC(=C1)NCC(C(F)(F)F)(F)F | C11H10F5N3O
reactant | ethyl iodide | 47 mg | C(C)I | C2H5I
reactant | sodium hydride | 12 mg | [H-].[Na+]
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 4-(2-butynyloxy)-6-(N-ethyl-N-(2,2,3,3,3-pentafluoropropyl)amino)pyrimidine | 43 mg | C(C#CC)OC1=NC=NC(=C1)N(CC(C(F)(F)F)(F)F)CC | C13H14F5N3O
